US04684727
Preparation of 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one
To a suspension of 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one (1 g) in CH2Cl2 (20 mL) was added, dropwise and with stirring, a solution of bromine (0.7 g) in CH2Cl2 (5 mL). The mixture was stirred at room temperature overnight, after which time the product was filtered off, dried in air and recrystallized from acetonitrile to yield 0.87 g of the product, m.p. >280° C.

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | 1 g | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | bromine | 0.7 g | BrBr | Br2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | 0.87 g | BrC=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C14H9BrN2O2
